US06242443B1
6-Chloro-7-fluoro-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
The title compound was prepared from 2-amino-4-chloro-5-fluorobenzenesulfonamide and isopropyl isothiocyanate by a method analogous to the one described in Example 4; m.p. 282-285° C. (ethyl acetate); 1H-NMR (DMSO-d6): δ 1.17 (d, 6H, CH(CH3)2), 3.92 (m, 1H, CH(CH3)2), 7.34 (br., 1H, NH), 7.45 (d, 1H, ArH), 7.76 (d, 1H, ArH), 10.44 (br.s, 1H, NH); MS: m/e 291/293 (M+); (C10H11N3Cl1F1O2S1) calc. C, 41.17; H, 3.80; N, 14.40; found C, 41.3; H, 3.8; N, 14.4.

reactant | 2-amino-4-chloro-5-fluorobenzenesulfonamide | NC1=C(C=C(C(=C1)Cl)F)S(=O)(=O)N | C6H6ClFN2O2S
reactant | isopropyl isothiocyanate | C(C)(C)N=C=S | C4H7NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-7-fluoro-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC=1C(=CC2=C(NC(=NS2(=O)=O)NC(C)C)C1)F | C10H11ClFN3O2S
